US05753671
Lithium aluminium hydride (97 mg, 2.56 mmol) was taken up in dry THF (15 ml) and stirred under an inert atmosphere at -78° C. 5-(4-Benzhydrylpiperazin-1-yl)-2-pentanone (717 mg, 2.13 mmol) as a solution in THF (35 ml) was added dropwise. The reaction was stirred at -78° C. for 15 minutes before allowing to warm to room temperature. After a total reaction time of 30 minutes the reaction was quenched with a 15% aqueous solution of sodium hydroxide (25 ml). The reaction mixture was filtered through Kieselguhr gel and partitioned between ethyl acetate and water. The organic layer was separated, dried over sodium sulphate, filtered and solvent removed under reduced pressure to yield (RS)-5-(4-benzhydrylpiperazin-1-yl)-2-pentanol as a white powder (686 mg, 95%).

reactant | Lithium aluminium hydride | 2.56 mmol, 97 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-Benzhydrylpiperazin-1-yl)-2-pentanone | 2.13 mmol, 717 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCC(C)=O | C22H28N2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | (RS)-5-(4-benzhydrylpiperazin-1-yl)-2-pentanol | 686 mg, 95% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCC(C)O | C22H30N2O
